Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Abd Pain 
 
Major Surgical or Invasive Procedure:
ERCP ___

 
History of Present Illness:
Mr ___ is a ___ year old man with PMHx notable for 
Splenic rupture s/p splenectomy, Melanoma of right forearm s/p 
excision ___ years ago, Psoriatic arthritis, who presents from 
PCP office for GI evaluation. THe patient reports that over the 
last 2 weeks he has had yellow stools. He reports that the 
stools have increased frequency, looser, and explosive. He 
reports that he thought it was related to something that he ate. 
He reports that on ___ he notices that his urine was "whiskey 
colored". Due to the holidays he was unable to get in to see his 
PCP. He reports that he presented to his PCP on ___ and 
had lab work done. He reports he had blood tests which were 
remarkable for LFT elevations (TBili 3.29, Alk Phos 397, AST 
133, ALT 320, 2+ urine bili) and later that day had a CT AP at 
___ which, per report show intrahepatic 
biliary duct dilatation with enhancing soft tissue in the common 
hepatic duct. In the 3 days prior to admission he had been 
seeking GI referral but his GI doctors office was closed for the 
holidays.  On the day of admission he had a mechanical fall on 
the ice and presented to PCP office with anterior chest bruising 
after a fall. He reports that he had a CXR that per report was 
negative for fracture and he was recommended to present to ED 
for GI eval and possible ERCP.  Of note the patient reports that 
he has lost 20 lbs in the last 4 months but feels that it is 
related to his dietary modifications that he made over that 
time. 

In the ED the patient had LFTs that were elevated. He had a CT 
of the abd/pelvis that was notable for a possible soft tissue 
mass and mild biliary dilation. ERCP was consulted and the 
patient was admitted to the medical service for further 
evaluation and management. Of not his CT also showed per report 
"left-sided ___, 8th rib lateral minimally displaced fracture".

ROS: The patient reports yellowing of his skin, diffuse puritis, 
and fatigue. He denies fever, chills, abdominal pain, nausea, 
vomiting. Otherwise a 10 point ROS is negative except as above 
in the HPI. 
 
Past Medical History:
-Splenic rupture s/p splenectomy.
-Deep vein thrombosis - LLE, post-operative after splenectomy.
-Elevated PSA - followed by urology Dr. ___ in
___.
-Melanoma of right forearm s/p excision ___ years ago.
-Basal cell carcinomas of forehead and abdomen.
-Squamous cell carcinoma of the left upper extremity.
-Psoriatic arthritis.
-Possible giant cell granuloma of the jaw s/p resection in ___
followed by recurrence and repeat resection in the 1980s.
 
Social History:
___
Family History:
Father - died at age ___
Mother - died of pancreatic cancer at age ___
Brother - died of brain cancer at age ___
Two or three maternal cousins with pancreatic cancer
Denies family history of blood disorder
 
Physical Exam:
Vitals: afeb, 143/82 66 18 95% RA
Gen: NAD, lying in bed, slightly dec jaundice, pleasant, 
comfortable, but occ will scream out in pain if turns or breaths 
incorrect (due to left rib pain)
Eyes: EOMI, sclerae still slightly icteric
ENT: MMM, OP clear
CV: RRR, no murmur 
PULM: normal effort, no accessory muscle use, lungs CTA with dec
bs at left base
GI: soft, NT, ND, BS+
GU: No Foley Catheter
Neuro: AAOx3. Fluent speech, no facial droop.
Psych: Full range of affect

 
Pertinent Results:
Imaging: 
CT ABD/Pelvis:
1. Distention of the gallbladder and mild central intrahepatic 
biliary ductal dilatation, new since prior.  There is vague 
hyperdensity in the region of the common bile duct raising 
concern for underlying mass lesion. 
2. Postsurgical changes related to prior splenectomy, with 
stable splenosis in the left upper quadrant. 
3. Nonspecific left external iliac lymphadenopathy, slightly 
decreased 
compared to the prior CT from ___. 
4. Prostatomegaly. 
5. Sclerotic foci in the bones, similar compared to prior, 
potentially bone islands but continued followup on future exams 
is suggested. 

Liver/GB U/S:
Sludge filled and distended gallbladder without gallbladder wall 
thickening, edema, or cholelithiasis. 
Please see report from concurrent CT abdomen pelvis including 
recommendation for MRCP for further evaluation. 

___ 05:40AM BLOOD WBC-15.7* RBC-4.74 Hgb-14.3 Hct-44.3 
MCV-94 MCH-30.2 MCHC-32.3 RDW-14.6 RDWSD-50.6* Plt ___
___ 05:55AM BLOOD ALT-161* AST-77* AlkPhos-276* 
TotBili-1.8*
___ 06:40AM BLOOD ALT-153* AST-64* AlkPhos-265* 
TotBili-1.6*

MRI results still pending
Path results still pending
 
Brief Hospital Course:
___ year old man with PMHx notable for Splenic rupture s/p 
splenectomy, Melanoma of right forearm s/p excision ___ years 
ago, Psoriatic arthritis, who presents for evaluation of 
elevated LFTs and painless jaundice

ERCP found:
A single irregular stricture of malignant appearance that was 10 
mm long was seen at the common hepatic duct, just below the 
birfurcation. There was moderate post-obstructive dilation of 
the left and right hepatics.  A sphincterotomy was performed in 
the 12 o'clock position using a sphincterotome over an existing 
guidewire.
Cytology samples were obtained for histology using a brush.
A 10cm by ___ ___ biliary stent was placed successfully 
using a Oasis stent introducer kit.   

Post-ERCP, patient had no abd pain, he was kept NPO overnight 
and transitioned to a regular diet without difficulty, he was 
kept on ciprofloxacin for prophylaxis

Appreciate input of ERCP team, pancreatobiliary surgical 
service. A MRA/MRCP was obtained (formal read pending) and he 
was set up for follow-up with comprehensive pancreatic clinic 
for discussion of brushing results and treatment options. It is 
believed this is likely pancreatic ca.

# Left sided ___ and 8th rib fracture: Patient had mechanical 
fall on 
- F/u final read of CT scan
- Pain control with acetaminophen and oxycodone
- IS
- Encourage deep breathing

# BPH:
- Continue finasteride. 

# S/p Splenectomy: Patient had a splenic rupture and had had 
mild leukocytosis and thrombocytosis. 
- Hold aspirin for 3 days given ERCP

# Psoriasic Arthritis: Patient is on diclofenac for symptom 
control and steroid ointment for treatment. 
- Hold diclofenac for 3 days given ERCP
- Pain control as above.  

# Code status: DNR/OK to intubate per discussion with the 
patient. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 325 mg PO DAILY 
2. Diclofenac Sodium ___ 50 mg PO TID:PRN pain 
3. Atorvastatin 40 mg PO QPM 
4. mometasone 0.1 % topical BID:PRN psoriasis 
5. Betamethasone Dipro 0.05% Oint 1 Appl TP BID:PRN psoriasis 

 
Discharge Medications:
1. Finasteride 5 mg PO QHS 
2. Acetaminophen ___ mg PO Q6H:PRN Pain 
3. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*6 Tablet Refills:*0
4. mometasone 0.1 % topical BID:PRN psoriasis 
5. Diclofenac Sodium ___ 50 mg PO TID:PRN pain 
6. Betamethasone Dipro 0.05% Oint 1 Appl TP BID:PRN psoriasis 
7. Atorvastatin 40 mg PO QPM 
8. Aspirin 325 mg PO DAILY 
9. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 capsule(s) by mouth q6 h Disp #*20 Capsule 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CBD stricture due to mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___, you were admitted for a blockage of your bile duct caused 
by a possible tumor. A stent was placed to open up the blockage 
and brushings were taken to identify the cause. You also had a 
MRI to better characterize the tumor.

PLEASE DO NOT TAKE YOUR ATORVASTATIN, ASPIRIN, OR DIFLONEC UNTIL 
YOU FINISH YOUR ANTIBIOTICS. 
 
Followup Instructions:
___